US07402595B2
2-(benzo[2,1,3]thiadiazol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (600 mg) in DMF (6 ml) was added sodium hydride (60% in oil, 74 mg) under ice-cooling, and the mixture was allowed to warm to room temperature and stirred for 1 hr. To the reaction mixture was added 5-bromomethylbenzo[2,1,3]thiadiazole (460 mg) at room temperature, and the mixture was stirred for 2 hrs. Water was added to the reaction mixture and crystals were collected by filtration, washed with ethyl acetate. The filtrate was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and dried. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from ethyl acetate. The crystals were collected by filtration, combined with the crystals obtained earlier, and subjected to silica gel column chromatography (THF) and further to recrystallization (THF-ethyl acetate) to give the title compound (450 mg).

reactant | 6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 600 mg | COC(=O)C=1NC(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O | C17H12BrNO3
reactant | sodium hydride | 74 mg | [H-].[Na+]
reactant | 5-bromomethylbenzo[2,1,3]thiadiazole | 460 mg | BrCC1=CC=2C(=NSN2)C=C1 | C7H5BrN2S
reactant | Water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 2-(benzo[2,1,3]thiadiazol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 450 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=2C(=NSN2)C=C1 | C24H16BrN3O3S
